* CL05A225KP5NSN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 2.2uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.07mm
*     Width = 0.50+/-0.07mm
*     Thickness = 0.50+/-0.07mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 2.8V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A225KP5NSN_Precise_DC2.8V_25degC 1 2
C1 1 3 1.04553E-6
C2 3 4 4.15017E-5
C3 4 5 3.77255E-5
C4 5 6 4.06910E-5
C5 6 7 4.33756E-5
C6 7 8 3.48014E-5
C7 8 9 1.34576E-5
C8 9 10 1.0E-10
C16 17 18 6.90004E-4
C17 18 19 9.58571E-5
C18 19 20 1.74012E-5
C19 20 21 2.40592E-5
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 4.30574E-5
C23 24 25 8.90916E-6
C24 25 26 7.18247E-7
C25 26 27 2.53303E-4
C26 27 28 1.72531E-11
C27 28 2 2.53303E-4
L10 11 12 8.03379E-11
L11 12 13 1.38496E-10
L12 13 14 4.07011E-11
L13 14 15 2.71753E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 8.55094E-12
L17 18 19 1.70072E-11
L18 19 20 3.47425E-11
L19 20 21 1.70785E-11
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 0.00987
L23 24 25 1.27348E-11
L24 25 26 7.91478E-11
L25 26 27 1.0E-10
L26 27 28 2.23960E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 177.66330
R3 4 5 26.70469
R4 5 6 0.57307
R5 6 7 0.08708
R6 7 8 0.01524
R7 8 9 0.00403
R8 9 10 1.0E-6
R9 10 11 0.00361
R11 12 13 0.03605
R12 13 14 0.12810
R13 14 15 0.31752
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00173
R17 18 19 0.00442
R18 19 20 0.00111
R19 20 21 2.65023E-4
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 3.23520
R23 24 25 0.00277
R24 25 26 0.00918
R25 26 27 1.0E-6
R26 27 28 2.40543
R27 28 2 1.0E-6
.ENDS CL05A225KP5NSN_Precise_DC2.8V_25degC